US07513917B2
11.5 g 2-amino-4,5-dimethyl-1,3-thiazol hydrochloride is dissolved in a mixture of 300 ml acetic acid and 10.2 g sulphuric acid while the temperature rises up to 30° C. The mixture is cooled to 15° C. followed by dropwise addition of 33.2 g 40% aqueous nitrosyl sulphuric acid and is stirred for 1.5 hours. In a separate beaker a solution of 20 g 2-[ethyl(phenyl)amino]-N,N,N-trimethylethanaminium bromide in a mixture of 80 ml acetic acid, 8.3 g hydrochloric acid and 120 g ice was prepared. The previously prepared diazonium salt solution was added slowly to this solution so that the temperature does not exceed 5° C. The solution is further stirred for 2 hours at room temperature. The pH value is adjusted to 4 by adding an appropriate amount of 30% aqueous sodium hydroxide. The resulted precipitate is filtered off, washed with water, and dried in vacuum at 40° C. After recrystallization in ethanol/water, 20.3 g of 2-[{4-[(4,5-dimethyl-1,3-thiazol-2-yl)diazenyl]phenyl}(ethyl)amino]-N,N,N-trimethylethanaminium bromide is obtained as red crystals.

reactant | 2-amino-4,5-dimethyl-1,3-thiazol hydrochloride | 11.5 g | Cl.NC=1SC(=C(N1)C)C
reactant | nitrosyl sulphuric acid | 33.2 g | N(=O)OS(O)(=O)=O | HNO5S
reactant | 2-[ethyl(phenyl)amino]-N,N,N-trimethylethanaminium bromide | 20 g | [Br-].C(C)N(CC[N+](C)(C)C)C1=CC=CC=C1
reactant | hydrochloric acid | 8.3 g | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
solvent | sulphuric acid | 10.2 g | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 2-[{4-[(4,5-dimethyl-1,3-thiazol-2-yl)diazenyl]phenyl}(ethyl)amino]-N,N,N-trimethylethanaminium bromide | 20.3 g | [Br-].CC=1N=C(SC1C)N=NC1=CC=C(C=C1)N(CC[N+](C)(C)C)CC | InChI=1S/C18H28N5S.BrH/c1-7-22(12-13-23(4,5)6)17-10-8-16(9-11-17)20-21-18-19-14(2)15(3)24-18;/h8-11H,7,12-13H2,1-6H3;1H/q+1;/p-1
